US07956064B2
ethyl 3-(7-(1H-tetrazol-5-yl)thieno[3,2-c]quinolin-4-ylamino)benzoate (1.0 eq, 7.6 mg, 0.018 mmol) was suspended in a 1:1:1 mixture of THF, MeOH and water. Lithium Hydroxide was added (40 mg, 1.66 mmol) and the mixture stirred at room temperature for one hour. Water and hydrochloric acid were added and the resulting solid filtered and dried to afford 3-(7-(1H-tetrazol-5-yl)thieno[3,2-c]quinolin-4-ylamino)benzoic acid as a solid. LCMS (ES): 95% pure, m/z 389 [M+1]+.

reactant | ethyl 3-(7-(1H-tetrazol-5-yl)thieno[3,2-c]quinolin-4-ylamino)benzoate | 0.018 mmol, 7.6 mg, 1.0 eq | N1N=NN=C1C=1C=CC=2C3=C(C(=NC2C1)NC=1C=C(C(=O)OCC)C=CC1)C=CS3 | C21H16N6O2S
reactant | THF | C1CCOC1 | C4H8O
reactant | Lithium Hydroxide | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
solvent | MeOH | CO | CH4O
product | 3-(7-(1H-tetrazol-5-yl)thieno[3,2-c]quinolin-4-ylamino)benzoic acid | N1N=NN=C1C=1C=CC=2C3=C(C(=NC2C1)NC=1C=C(C(=O)O)C=CC1)C=CS3 | C19H12N6O2S
